US08207164B2
a) 2-(3-Bromo-phenyl)-2-nitro-propane-1,3-diol
A mixture of 1-bromo-3-nitromethyl-benzene (6.82 g, 31.6 mmol), formaline (35%, 5.22 ml, 66.3 mmol) and Et3N (2.2 ml, 15.78 mmol) was heated at 50° C. for 1 h, diluted with water and extracted with TBME. The organic phase was washed with brine, dried with MgSO4 and evaporated. The residue was crystallized from TBME/hexane to yield the title compound in the form of a colourless solid. TLC (hexane/EtOAc=2:1): Rf=0.2; HPLC: RtH2=3.117 min; 1H-NMR (400 MHz, CD3OD): 7.61-7.54 (m, 2H), 7.39-7.34 (m, 2H), 4.40 (d, 2H), 4.35 (d, 2H); MS: 298, 300 [(M+Na)+].

reactant | 1-bromo-3-nitromethyl-benzene | 31.6 mmol, 6.82 g | BrC1=CC(=CC=C1)C[N+](=O)[O-] | C7H6BrNO2
reactant | formaline | 66.3 mmol, 5.22 ml | C=O | CH2O
reactant | Et3N | 15.78 mmol, 2.2 ml | CCN(CC)CC | C6H15N
reactant | water | O | H2O
product | 2-(3-Bromo-phenyl)-2-nitro-propane-1,3-diol | BrC=1C=C(C=CC1)C(CO)(CO)[N+](=O)[O-] | C9H10BrNO4
